US05134152
2-(2,4-Difluorophenyl)-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane
101 mg (4.2 mmole) of sodium hydride (as a 60% w/w dispersion in mineral oil) were added to 10 ml of dimethyl sulfoxide, and the resulting mixture was stirred at 80° C. for 30 minutes. At the end of this time, the mixture was cooled, 928 mg (4.2 mmole) of trimethylsulfoxonium iodide were added thereto and the reaction temperature was allowed to rise to room temperature. The mixture was then stirred for 30 minutes, after which 501 mg (2.11 mmole) of 2-(2,4-difluorophenyl)-2-[(1H-1,2,4-triazol-1-yl)methyl]-oxirane was added, and the mixture was stirred at 50° C. for a further 16 hours. At the end of this time, the reaction mixture was cooled, poured into 50 ml of ice-water and extracted with 100 ml of ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through silica gel, eluted with a 2:3 by volume mixture of hexane and ethyl acetate, to afford 238 mg (yield 45%.) of the title compound as an oil.

reactant | sodium hydride | 4.2 mmole, 101 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 4.2 mmole, 928 mg | [I-].C[S+](=O)(C)C
reactant | 2-(2,4-difluorophenyl)-2-[(1H-1,2,4-triazol-1-yl)methyl]-oxirane | 2.11 mmole, 501 mg | FC1=C(C=CC(=C1)F)C1(OC1)CN1N=CN=C1 | C11H9F2N3O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-(2,4-Difluorophenyl)-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane | yield 45% | FC1=C(C=CC(=C1)F)C1(OCC1)CN1N=CN=C1 | C12H11F2N3O
